US09056874B2
(2-Chloro-4-methyl-5-nitrophenyl)methanol
To a solution of 2-chloro-4-methyl-5-nitrobenzoic acid (CAS; 101580-96-5, 15 g, 69.6 mmol) and triethylamine (11.1 mL, 80 mmol) in THF (200 mL) was added 1,1,1-trichloro-2-methylpropan-2-yl carbonochloridate (19.2 g, 80 mmol) at 0° C., and then the mixture was stirred at 0° C. for 1 hr. The resulting white solid was filtered off through Celite®. The solid was washed by THF (20 mL). To the filtrate was added NaBH4 (3.2 g, 83 mmol) at 0° C., followed by H2O (50 mL). The mixture was stirred at 0° C. for 0.5 h, and then stirred at room temperature for 1.25 h. The reaction was quenched by half satd. KHSO4. The layers were separated and the aqueous layer was extracted with CH2Cl2. The organic layers were combined, washed with H2O and brine, dried over Na2SO4, and then filtered through a silica pad. The SiO2 cake was washed with EtOAc. The residue was concentrated and then triturated with heptane. The resulting solid was collected by filtration to give the title compound. 1H NMR (400 MHz, ACETONITRILE-d3) δ 8.11 (s, 1H), 7.47 (s, 1H), 4.68 (s, 2H), 2.53 (s, 3H).

reactant | 2-chloro-4-methyl-5-nitrobenzoic acid | 69.6 mmol, 15 g | ClC1=C(C(=O)O)C=C(C(=C1)C)[N+](=O)[O-] | C8H6ClNO4
reactant | triethylamine | 80 mmol, 11.1 mL | C(C)N(CC)CC | C6H15N
reactant | 1,1,1-trichloro-2-methylpropan-2-yl carbonochloridate | 80 mmol, 19.2 g | C(OC(C(Cl)(Cl)Cl)(C)C)(=O)Cl | C5H6Cl4O2
reactant | NaBH4 | 83 mmol, 3.2 g | [BH4-].[Na+]
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | H2O | 50 mL | O | H2O
product | (2-Chloro-4-methyl-5-nitrophenyl)methanol | ClC1=C(C=C(C(=C1)C)[N+](=O)[O-])CO | C8H8ClNO3
